US09290791B2
4-(Trimethylsilyl)ethynyl-benzoic acid methyl ester (714 mg, 3.07 mmol) was dissolved in 4% KOH:MeOH (w:v, 30 mL) and allowed to reflux overnight. The reaction was quenched with 6N HCl to pH 2-3 (as indicated by pH paper) and extracted 2× with EtOAc. The combined organic layers were dried over anhydrous Na2SO4 and evaporated to afford 4-ethynylbenzoic acid (427 mg, 2.92 mmol, 95%) as a brown solid. H-NMR (d6-acetone, 500 MHz) δ (ppm): 7.62 (d, J=16.2 Hz, 2H); 8.03 (d, J=16.3 Hz, 2H).

reactant | 4-(Trimethylsilyl)ethynyl-benzoic acid methyl ester | 3.07 mmol, 714 mg | COC(C1=CC=C(C=C1)C#C[Si](C)(C)C)=O | C13H16O2Si
reactant | MeOH | 30 mL | CO | CH4O
solvent | KOH | [OH-].[K+]
product | 4-ethynylbenzoic acid | 2.92 mmol, 427 mg, 95% | C(#C)C1=CC=C(C(=O)O)C=C1 | C9H6O2
